US09085605B2
Liquid-phase synthesis of Boc-D-Glu(OBzl)-OH
36.6 g (1.0 eq) H-D-Glu(OBzl)-OH was dissolved in 500 mL dioxane/water (v/v=1:1), 67.3 g (2.0 eq) Boc anhydride and 25.3 g sodium dicarbonate (2.0 eq) were added sequentially; and an oil bath heating was employed for dissolving all the substrates. The solution was stirred at r.t for 20 hours. After the completion of the reaction, the dioxane was removed under vacuum, and large number of viscous precipitate was obtained. The precipitate was diluted with 500 mL water, and stirred for another 30 minutes to fully dissolution. The pH of the solution was adjusted to 2˜3 by 2 N HCl aqueous solution in ice bath, and the mixture became muddy, and was allowed to stand for 30 minutes.

reactant | H-D-Glu(OBzl)-OH | 36.6 g, 1.0 eq | N[C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O | C12H15NO4
reactant | Boc anhydride | 67.3 g, 2.0 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium dicarbonate | 25.3 g, 2.0 eq | C(=O)([O-])OC(=O)[O-].[Na+].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | dioxane water | 500 mL | O1CCOCC1.O
solvent | water | 500 mL | O | H2O
product | Boc-D-Glu(OBzl)-OH | N([C@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C17H23NO6
